US06620828B2
5-Pyridin-2-yl-N2-(3,4,5-trimethoxy-phenyl)-thiazole-2,4-diamine
3,4,5-Trimethoxyphenyl isothiocynate (250 mg, 1.11 mmol, 1 equiv.) and cyanamide (56 mg, 1.33 mmol, 1.2 equiv.) were taken up in acetonitrile-tert-butanol (1:1, 10 mL) at 23° C. To this was added KO-t-Bu (286 mg, 2.55 mmol, 2.3 equiv.) and 2-chloromethylpyridine hydrochloride (182 mg, 1.11 mmol, 1.00 equiv.). The reaction mixture was allowed to stir for 1.5 h at 23° C. The mixture was diluted with water (20 mL) and the white solids were filtered, washed with ether and dried (257 mg). The dried residue (60 mg, 0.167 mmol, 1.00 equiv.) was dissolved in THF (3 mL), cooled to −78° C. and was treated with n-butyllithium (0.261 mL, 1.6 M, 2.5 equiv.). The mixture was allowed to warm to 23° C., was quenched with saturated sodium bicarbonate, and organics were extracted into ethyl acetate. The concentrated residue was purified by silica gel chromatography (ethyl acetate/hexane: 1:1, 48.3 mg, 80%).

reactant | 3,4,5-Trimethoxyphenyl isothiocynate | 1.11 mmol, 250 mg, 1 equiv. | COC=1C=C(C=C(C1OC)OC)N=C=S | C10H11NO3S
reactant | cyanamide | 1.33 mmol, 56 mg, 1.2 equiv. | N#CN | CH2N2
reactant | KO-t-Bu | 2.55 mmol, 286 mg, 2.3 equiv. | O([K])C(C)(C)C
reactant | 2-chloromethylpyridine hydrochloride | 1.11 mmol, 182 mg, 1.00 equiv. | Cl.ClCC1=NC=CC=C1
reactant | n-butyllithium | 1.6 M, 0.261 mL, 2.5 equiv. | C(CCC)[Li]
solvent | acetonitrile tert-butanol | 10 mL | C(C)#N.C(C)(C)(C)O
solvent | water | 20 mL | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 5-Pyridin-2-yl-N2-(3,4,5-trimethoxy-phenyl)-thiazole-2,4-diamine | N1=C(C=CC=C1)C1=C(N=C(S1)NC1=CC(=C(C(=C1)OC)OC)OC)N | C17H18N4O3S
